US07326707B2
Methanesulfonyl chloride (2 eq) was slowly added at 0° C. to a DCM solution of N-(tert-butoxycarbonyl)-hydroxyproline N,O-dimethylhydroxamide and TEA (2 eq). The reaction mixture was stirred for an additional 10 minutes and allowed to attain room temperature with continued stirring for an additional 45 minutes. The solvent was then evaporated and residue taken in water. It was extracted with ethyl acetate (twice) and the combined organic layer was washed with brine and dried over sodium sulfate. The solvent was evaporated and residue dried under vacuum to give O-mesyl N-(tert-butoxycarbonyl)-hydroxyproline N,O-dimethylhydroxamide. The yield from this reaction.

reactant | Methanesulfonyl chloride | 2 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(tert-butoxycarbonyl)-hydroxyproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@@H](O)C1 | C10H17NO5
solvent | DCM | C(Cl)Cl | CH2Cl2
product | O-mesyl N-(tert-butoxycarbonyl)-hydroxyproline | S(=O)(=O)(C)OC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C11H19NO7S
